US08314091B2
A: 3-((4-(4-Amino-3-chloro-2-fluorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide
To 4-amino-3-chloro-2-fluorobenzoic acid (0.754 mmol, 143 mg), N-tert-butyl-3-(piperazin-1-ylmethyl)benzamide (0.754 mmol, 208 mg) and triethylamine (3.02 mmol, 0.421 ml, 305 mg) in dichloromethane (8 mL) was added 1-propanephosphonic acid cyclic anhydride (1.886 mmol, 1.117 mL, 1200 mg, 50% solution in ethyl acetate). After 2 hours stirring, ethyl acetate was added. The organic solution was washed with saturated sodium hydrogen carbonate, water, and saturated sodium chloride. The organic phase was dried with sodium sulfate, filtered and concentrated. The residue was purified by silica chromatography to yield the title compound (155 mg).

reactant | 4-amino-3-chloro-2-fluorobenzoic acid | 0.754 mmol, 143 mg | NC1=C(C(=C(C(=O)O)C=C1)F)Cl | C7H5ClFNO2
reactant | N-tert-butyl-3-(piperazin-1-ylmethyl)benzamide | 0.754 mmol, 208 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCNCC1)=O | C16H25N3O
reactant | triethylamine | 3.02 mmol, 0.421 ml, 305 mg | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 1.886 mmol, 1.117 mL, 1200 mg | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-((4-(4-Amino-3-chloro-2-fluorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 155 mg | NC1=C(C(=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1)F)Cl | C23H28ClFN4O2
